US07446199B2
Pyrrolidin-1-yl-(1H-pyrrolo[2,3-b]pyridin-5-yl)-methanone
A mixture of 5-bromo-1-methanesulfonyl-1H-pyrrolo[2,3-b]pyridine (300 mg, 1.1 mmol), PdCl2(dppf) (55 mg, 0.07 mmol), and pyrrolidine (2 mL) in DMF (5 mL) was charged with CO balloon. The system was degassed with vacuum twice before it was heated to 80° C. for 6 h. The solution was cooled and poured into water. The aqueous solution was extracted with ethyl acetate (3×50 mL), the combined organic layers were dried over Na2SO4, and the solvent was removed by vacuum evaporation. The crude product was treated with 6N NaOH in MeOH for 2 h. MeOH was removed by evaporation. The aqueous solution was neutralized with 6N HCl to pH 8 and extracted with ethyl acetate. The combined organic layers were dried over Na2SO4 and the solvent was removed by vacuum evaporation to give a yellow solid (80 mg, 0.37 mmol, 34%), which was used directly for the next step. MS (ES+): m/e=216.1 (M+H); LC: 2.18 min.

reactant | 5-bromo-1-methanesulfonyl-1H-pyrrolo[2,3-b]pyridine | 1.1 mmol, 300 mg | BrC=1C=C2C(=NC1)N(C=C2)S(=O)(=O)C | C8H7BrN2O2S
reactant | pyrrolidine | 2 mL | N1CCCC1 | C4H9N
reactant | DMF | 5 mL | CN(C)C=O | C3H7NO
catalyst | PdCl2(dppf) | 0.07 mmol, 55 mg | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
product | Pyrrolidin-1-yl-(1H-pyrrolo[2,3-b]pyridin-5-yl)-methanone | 0.37 mmol, 80 mg, 34% | N1(CCCC1)C(=O)C=1C=C2C(=NC1)NC=C2 | C12H13N3O
